### PR TITLE
[Merged by Bors] - feat: port Counterexamples.HomogeneousPrimeNotPrime

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
Some `dec_trivial` are not working, and also the `LinearOrderedAddCommMonoid Two` needs fixing
7 errors currently

File: Counterexamples/HomogeneousPrimeNotPrime.lean [hunk 1]
```diff
@@ -0,0 +1,218 @@
...
+! if you have ported upstream changes.
+-/
+import Mathlib.RingTheory.GradedAlgebra.HomogeneousIdeal
+import Mathlib.Data.ZMod.Basic
+import Mathlib.Tactic.DeriveFintype
+
+/-!
+# A homogeneous prime that is homogeneously prime but not prime
+
+In `src/ring_theory/graded_algebra/radical.lean`,  we assumed that the underline grading is indexed
```
Comment (urkud) [inline Counterexamples/HomogeneousPrimeNotPrime.lean:18]: Update file path, please. Or better reference a theorem.

File: Counterexamples/HomogeneousPrimeNotPrime.lean [hunk 2]
```diff
@@ -0,0 +1,218 @@
...
+by a `linear_ordered_cancel_add_comm_monoid` to prove that a homogeneous ideal is prime if and only
+if it is homogeneously prime. This file is aimed to show that even if this assumption isn't strictly
+necessary, the assumption of "being cancellative" is. We construct a counterexample where the
+underlying indexing set is a `linear_ordered_add_comm_monoid` but is not cancellative and the
```
Comment (urkud) [inline Counterexamples/HomogeneousPrimeNotPrime.lean:22]: Did you run `fix-comments` on this file?

File: Counterexamples/HomogeneousPrimeNotPrime.lean [hunk 3]
```diff
@@ -0,0 +1,218 @@
...
+  add_mem' := @fun _ _ ha hb => congr_arg₂ (· + ·) ha hb
+  smul_mem' a _ hb := congr_arg ((· * ·) a) hb
+#align counterexample.counterexample_not_prime_but_homogeneous_prime.submodule_z Counterexample.CounterexampleNotPrimeButHomogeneousPrime.submoduleZ
+
+/-- The grade 1 part of `R²` is `{(0, b) | b ∈ R}`. -/
+def submoduleO : Submodule R (R × R) :=
+  LinearMap.ker (LinearMap.fst R R R)
+#align counterexample.counterexample_not_prime_but_homogeneous_prime.submodule_o Counterexample.CounterexampleNotPrimeButHomogeneousPrime.submoduleO
+
+/-- Given the above grading (see `submodule_z` and `submodule_o`),
```
Comment (urkud) [inline Counterexamples/HomogeneousPrimeNotPrime.lean:78]:
```suggestion
/-- Given the above grading (see `submoduleZ` and `submoduleO`),
```

File: Counterexamples/HomogeneousPrimeNotPrime.lean [hunk 4]
```diff
@@ -0,0 +1,218 @@
...
+set_option linter.uppercaseLean3 false
+
+/-- The counterexample is the ideal `I = span {(2, 2)}`. -/
+def I : Ideal (R × R) :=
+  Ideal.span {((2, 2) : R × R)}
+#align counterexample.counterexample_not_prime_but_homogeneous_prime.I Counterexample.CounterexampleNotPrimeButHomogeneousPrime.I
+
+-- Porting note: new theorem, TODO move
+variable {G₁ : Type _} {G₂ : Type _} [CommSemigroup G₁] [CommSemigroup G₂] in
+theorem prod_dvd_iff {x y : G₁ × G₂} :
```
Comment (urkud) [inline Counterexamples/HomogeneousPrimeNotPrime.lean:159]: I bet you don't need commutativity in this lemma. Why not move it now? What would be a good file for it?

File: Counterexamples/HomogeneousPrimeNotPrime.lean (hunk 1 above)
Comment (jcommelin) [reply Counterexamples/HomogeneousPrimeNotPrime.lean]: Done

File: Counterexamples/HomogeneousPrimeNotPrime.lean (hunk 2 above)
Comment (jcommelin) [reply Counterexamples/HomogeneousPrimeNotPrime.lean]: Oops, now I have

File: Counterexamples/HomogeneousPrimeNotPrime.lean (hunk 3 above)
Comment (jcommelin) [reply Counterexamples/HomogeneousPrimeNotPrime.lean]: Fixed.

File: Counterexamples/HomogeneousPrimeNotPrime.lean (hunk 4 above)
Comment (jcommelin) [reply Counterexamples/HomogeneousPrimeNotPrime.lean:159]: I have no idea what a good home would be.

Comment (jcommelin) [reply Counterexamples/HomogeneousPrimeNotPrime.lean]: I moved it to a new file.

File: Mathlib/Algebra/Divisibility/Prod.lean [hunk 5]
```diff
@@ -0,0 +1,25 @@
...
+variable {G₁ : Type _} {G₂ : Type _} [Semigroup G₁] [Semigroup G₂]
+
+theorem prod_dvd_iff {x y : G₁ × G₂} :
+    x ∣ y ↔ x.1 ∣ y.1 ∧ x.2 ∣ y.2 := by
+  cases x; cases y
+  simp only [dvd_def, Prod.exists, Prod.mk_mul_mk, Prod.mk.injEq,
+    exists_and_left, exists_and_right, and_self, true_and]
+
+@[simp]
+theorem pair_dvd_pair_iff {x₁ y₁ : G₁} {x₂ y₂ : G₂} :
```
Comment (urkud) [inline Mathlib/Algebra/Divisibility/Prod.lean:23]: Should it be `Prod.mk_dvd_mk`? We have `Prod.mk_mul_mk`, not `pair_mul_pair`. Otherwise LGTM. Thanks!
bors d+

Comment (jcommelin) [inline Mathlib/Algebra/Divisibility/Prod.lean:23]:
```suggestion
theorem Prod.mk_dvd_mk {x₁ y₁ : G₁} {x₂ y₂ : G₂} :
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
